US08859541B2
E2e) tert-butyl-N-[1-[[5-cyclopentyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate
A mixture of tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate C2d (60 mg, 0.14 mmol), bromo(cyclopentyl)zinc (0.5 M solution in THF, 1.6 ml, 0.81 mmol), Palladium(II) acetate (1.5 mg, 0.01 mmol), 2-Dicyclohexyl-phosphino-2′,4′,6′-triisopropylbiphenyl (6.4 mg, 0.01 mmol) in toluene (0.25 ml) is stirred at RT for 6 days. The reaction mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 18 mg (31%). HPLC-MS: M+H=434; tR=1.97 min (*Method—5).

reactant | tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC1=NC(=C(C=C1)Br)C#CC1=CC=CC=C1)C)=O | C21H22BrN3O3
reactant | bromo(cyclopentyl)zinc | 0.81 mmol, 0.5 M, 1.6 ml | Br[Zn]C1CCCC1
solvent | toluene | 0.25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium(II) acetate | 0.01 mmol, 1.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl-N-[1-[[5-cyclopentyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC1=NC(=C(C=C1)C1CCCC1)C#CC1=CC=CC=C1)C)=O | C26H31N3O3
